* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\Draft3.asc
V1 N003 0 2
V2 N002 N003 3
V3 N001 N002 4
R1 N001 N004 5
R2 0 N004 6
.op
.backanno
.end
